US05968819
A solution of naphthalene-1-sulfonic acid (6-aminohexyl)-amide (0.450 g) and 2-chloro-quinazolin-4-ylamine (see: U.S. Pat. No. 3,956,495) (0.264 g) in 20 ml of isopentylalcohol is heated up to 120° C. for 15 h. Concentration of the reaction mixture followed by chromatography on silica gel (B1) yields naphthalene-1-sulfonic acid [6-(4-amino-quinazolin-2-ylamino)-hexyl]amide as a white powder, melting at 98-101° C. Rf(B1) 0.28, FAB-MS: (M+H)+ =450. Ananlytical C26H29N5O2S+HCl+H2O+0.6 1,4 dioxane. m.p. 98-101° C.

reactant | naphthalene-1-sulfonic acid (6-aminohexyl)-amide | 0.450 g | NCCCCCCNS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C16H22N2O2S
reactant | 2-chloro-quinazolin-4-ylamine | ClC1=NC2=CC=CC=C2C(=N1)N | C8H6ClN3
solvent | isopentylalcohol | 20 ml | C(CC(C)C)O | C5H12O
product | naphthalene-1-sulfonic acid [6-(4-amino-quinazolin-2-ylamino)-hexyl]amide | NC1=NC(=NC2=CC=CC=C12)NCCCCCCNS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C24H27N5O2S
